* File: BUFD2.cdl.pex
* Created: Sat Dec 27 12:57:47 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_BUFD2%net2 13 17 39 41 48 51 58 59 61 68 71 78 82 84 89 90 91 92 93
+ 94 95
r42 104 107 0.0984
r43 101 104 0.0984
r44 97 101 0.0984
r45 93 95 0.266131
r46 93 94 21.2905
r47 77 78 0.62445
r48 77 92 0.62445
r49 71 84 0.0151417
r50 71 78 0.624484
r51 70 83 0.231882
r52 69 84 0.231882
r53 69 70 0.53136
r54 67 68 0.62445
r55 67 91 0.62445
r56 61 83 0.0151417
r57 61 68 0.624484
r58 60 82 0.231882
r59 59 83 0.231882
r60 59 60 0.53136
r61 57 58 0.62445
r62 57 90 0.62445
r63 51 82 0.0151417
r64 51 58 0.624484
r65 50 81 0.231882
r66 49 82 0.231882
r67 49 50 0.53136
r68 47 48 0.62445
r69 47 89 0.62445
r70 41 81 0.0151417
r71 41 48 0.624484
r72 39 81 0.231882
r73 39 40 0.92988
r74 37 107 1
r75 35 104 1
r76 35 37 0.2952
r77 33 101 1
r78 33 35 0.2952
r79 30 31 0.9594
r80 29 97 1
r81 29 33 0.2952
r82 29 31 0.9594
r83 27 40 0.260498
r84 27 30 0.9594
r85 17 107 1
r86 17 95 7.17942
r87 15 104 1
r88 15 17 5.2214
r89 13 101 1
r90 13 15 5.2214
r91 11 97 1
r92 11 95 2.74292
r93 11 13 5.2214
r94 5 94 7.46165
r95 5 94 13.0535
r96 1 95 1.91854
r97 1 93 29.3704
.ends

.subckt PM_BUFD2%VSS 1 200 201 202 203 204 205 206 207 208 209 210 211
r32 234 237 0.126514
r33 231 234 0.126514
r34 227 231 0.126514
r35 220 223 0.126514
r36 217 220 0.126514
r37 213 217 0.126514
r38 193 237 1
r39 191 234 1
r40 191 193 0.2952
r41 189 231 1
r42 189 191 0.2952
r43 186 227 1
r44 186 189 0.2952
r45 184 193 0.2214
r46 183 195 0.397738
r47 182 184 0.260498
r48 182 183 0.8856
r49 178 195 0.0706443
r50 178 203 0.474429
r51 176 195 0.397738
r52 176 177 0.53136
r53 172 177 0.327655
r54 172 202 0.474429
r55 171 223 1
r56 169 220 1
r57 169 171 0.2952
r58 167 217 1
r59 167 169 0.2952
r60 164 213 1
r61 164 167 0.2952
r62 162 171 0.2214
r63 161 194 0.397738
r64 160 162 0.260498
r65 160 161 0.8856
r66 156 194 0.0706443
r67 156 201 0.474429
r68 154 194 0.397738
r69 154 155 0.53136
r70 150 155 0.327655
r71 150 200 0.474429
r72 119 211 13.5974
r73 118 119 13.5974
r74 115 149 2.30802
r75 115 118 13.5974
r76 111 211 3.26338
r77 111 211 29.3704
r78 110 146 4.57327
r79 109 149 4.57327
r80 109 110 33.0689
r81 108 210 13.5974
r82 107 108 13.5974
r83 104 146 2.30802
r84 104 107 13.5974
r85 100 210 3.26338
r86 100 210 29.3704
r87 98 99 15.954
r88 97 143 5.52744
r89 97 98 15.954
r90 96 146 4.57327
r91 96 99 15.9549
r92 94 237 1
r93 94 209 15.0708
r94 92 234 1
r95 92 94 8.70233
r96 90 231 1
r97 90 92 8.70233
r98 87 88 23.9314
r99 86 227 1
r100 86 90 8.70233
r101 86 88 23.9314
r102 82 143 1.43649
r103 82 87 23.9314
r104 78 209 3.26338
r105 78 209 13.9123
r106 76 77 19.7251
r107 75 136 5.52744
r108 75 76 19.7251
r109 74 143 5.52744
r110 74 77 19.7256
r111 70 208 3.26338
r112 70 208 13.9123
r113 69 208 27.9718
r114 68 69 27.9718
r115 64 136 1.43649
r116 64 68 27.9718
r117 62 63 23.4963
r118 61 135 4.57327
r119 61 62 23.4963
r120 60 136 5.52744
r121 60 63 23.4963
r122 59 207 13.5974
r123 58 59 13.5974
r124 55 135 2.30802
r125 55 58 13.5974
r126 51 207 3.26338
r127 51 207 29.3704
r128 50 132 4.57327
r129 49 135 4.57327
r130 49 50 33.0689
r131 48 206 13.5974
r132 47 48 13.5974
r133 44 132 2.30802
r134 44 47 13.5974
r135 40 206 3.26338
r136 40 206 29.3704
r137 38 39 15.954
r138 37 38 15.954
r139 36 132 4.57327
r140 36 39 15.9549
r141 34 223 1
r142 34 205 15.0708
r143 32 220 1
r144 32 34 8.70233
r145 30 217 1
r146 30 32 8.70233
r147 27 28 23.9314
r148 26 213 1
r149 26 30 8.70233
r150 26 28 23.9314
r151 22 27 23.9314
r152 18 205 3.26338
r153 18 205 13.9123
r154 16 17 19.7251
r155 15 122 5.52744
r156 15 16 19.7251
r157 14 17 19.7256
r158 10 204 3.26338
r159 10 204 13.9123
r160 9 204 27.9718
r161 8 9 27.9718
r162 4 122 1.43649
r163 4 8 27.9718
r164 1 22 1.43649
r165 1 14 5.52744
r166 1 37 5.52744
.ends

.subckt PM_BUFD2%net1 6 17 31 32 76 83 84 86 93 98 105 106 108 115 118 125 126
+ 128 135 147 148 149 150 151 152 153 154 155 156 157 158
r79 171 173 0.17712
r80 169 171 0.17712
r81 167 169 0.17712
r82 165 176 0.122469
r83 165 167 0.50922
r84 161 164 0.180735
r85 159 176 0.124969
r86 159 164 0.180735
r87 156 158 6.80393
r88 134 135 0.62445
r89 134 152 0.62445
r90 128 135 0.624484
r91 127 140 0.231882
r92 126 128 0.252919
r93 126 127 0.53136
r94 124 125 0.62445
r95 124 151 0.62445
r96 118 140 0.0151417
r97 118 125 0.624484
r98 117 139 0.231882
r99 116 140 0.231882
r100 116 117 0.53136
r101 114 115 0.62445
r102 114 150 0.62445
r103 108 139 0.0151417
r104 108 115 0.624484
r105 107 138 0.231882
r106 106 139 0.231882
r107 106 107 0.53136
r108 104 105 0.62445
r109 104 149 0.62445
r110 98 138 0.0151417
r111 98 105 0.624484
r112 96 97 1.06272
r113 95 137 0.231882
r114 95 96 1.06272
r115 94 138 0.231882
r116 94 97 1.06272
r117 92 93 0.62445
r118 92 148 0.62445
r119 86 137 0.0151417
r120 86 93 0.624484
r121 85 136 0.231882
r122 84 137 0.231882
r123 84 85 0.53136
r124 82 83 0.62445
r125 82 147 0.62445
r126 76 136 0.0151417
r127 76 83 0.624484
r128 74 136 0.231882
r129 74 75 1.19556
r130 72 73 0.368994
r131 71 173 1
r132 71 72 0.368994
r133 69 171 1
r134 69 71 0.17712
r135 67 169 1
r136 67 69 0.17712
r137 64 167 1
r138 64 67 0.17712
r139 62 75 0.311719
r140 62 73 0.369012
r141 60 61 0.755993
r142 60 158 0.755993
r143 55 156 0.755993
r144 55 154 6.04794
r145 52 154 0.755993
r146 51 52 0.755993
r147 50 157 6.52456
r148 44 153 6.52456
r149 40 176 1
r150 38 176 1
r151 38 40 5.32796
r152 36 164 1
r153 36 38 5.32796
r154 34 161 1
r155 34 36 5.32796
r156 32 61 8.23772
r157 32 34 5.32796
r158 31 61 15.4223
r159 31 50 19.5802
r160 26 60 10.3074
r161 26 158 29.3704
r162 22 157 3.26338
r163 22 157 29.3704
r164 18 156 10.3074
r165 18 156 29.3704
r166 17 55 15.4223
r167 17 155 11.4207
r168 11 155 3.26338
r169 11 155 29.3704
r170 7 52 10.3074
r171 7 154 29.3704
r172 6 51 15.4223
r173 6 44 19.5802
r174 1 153 3.26338
r175 1 153 29.3704
.ends

.subckt PM_BUFD2%net3 13 17 39 41 48 51 58 59 61 68 71 78 82 84 89 90 91 92 93
+ 94 95
r42 104 107 0.0984
r43 101 104 0.0984
r44 97 101 0.0984
r45 93 95 0.266131
r46 93 94 21.2905
r47 77 78 0.62445
r48 77 92 0.62445
r49 71 84 0.0151417
r50 71 78 0.624484
r51 70 83 0.231882
r52 69 84 0.231882
r53 69 70 0.53136
r54 67 68 0.62445
r55 67 91 0.62445
r56 61 83 0.0151417
r57 61 68 0.624484
r58 60 82 0.231882
r59 59 83 0.231882
r60 59 60 0.53136
r61 57 58 0.62445
r62 57 90 0.62445
r63 51 82 0.0151417
r64 51 58 0.624484
r65 50 81 0.231882
r66 49 82 0.231882
r67 49 50 0.53136
r68 47 48 0.62445
r69 47 89 0.62445
r70 41 81 0.0151417
r71 41 48 0.624484
r72 39 81 0.231882
r73 39 40 0.92988
r74 37 107 1
r75 35 104 1
r76 35 37 0.2952
r77 33 101 1
r78 33 35 0.2952
r79 30 31 0.9594
r80 29 97 1
r81 29 33 0.2952
r82 29 31 0.9594
r83 27 40 0.260498
r84 27 30 0.9594
r85 17 107 1
r86 17 95 7.17942
r87 15 104 1
r88 15 17 5.2214
r89 13 101 1
r90 13 15 5.2214
r91 11 97 1
r92 11 95 2.74292
r93 11 13 5.2214
r94 5 94 7.46165
r95 5 94 13.0535
r96 1 95 1.91854
r97 1 93 29.3704
.ends

.subckt PM_BUFD2%VDD 1 12 24 33 44 55 64 85 86 87 88 89 90
r42 64 84 2.30802
r43 64 90 26.1059
r44 58 90 3.26338
r45 58 90 29.3704
r46 57 81 4.57327
r47 56 84 4.57327
r48 56 57 33.0689
r49 55 81 2.30802
r50 55 89 26.1059
r51 49 89 3.26338
r52 49 89 29.3704
r53 47 48 28.4275
r54 46 78 4.57327
r55 46 47 28.4275
r56 45 81 4.57327
r57 45 48 28.4279
r58 44 78 2.30802
r59 44 88 26.1059
r60 38 88 3.26338
r61 38 88 29.3704
r62 36 37 35.9694
r63 35 75 4.57327
r64 35 36 35.9694
r65 34 78 4.57327
r66 34 37 35.9702
r67 33 75 2.30802
r68 33 87 26.1059
r69 27 87 3.26338
r70 27 87 29.3704
r71 26 72 4.57327
r72 25 75 4.57327
r73 25 26 33.0689
r74 24 72 2.30802
r75 24 86 26.1059
r76 18 86 3.26338
r77 18 86 29.3704
r78 16 17 15.5772
r79 14 69 4.57327
r80 14 16 15.5772
r81 13 72 4.57327
r82 12 69 2.30802
r83 12 85 26.1059
r84 6 85 3.26338
r85 6 85 29.3704
r86 1 13 38.5513
r87 1 17 15.5772
.ends

.subckt PM_BUFD2%OUT 1 7 18 32 52 54 55 56 57 58 59
r33 52 53 0.755993
r34 52 59 0.755993
r35 46 57 0.755993
r36 46 55 6.04794
r37 43 55 0.755993
r38 42 43 0.755993
r39 41 58 6.52456
r40 35 54 6.52456
r41 32 53 15.4223
r42 32 41 19.5802
r43 27 52 10.3074
r44 27 59 29.3704
r45 23 58 3.26338
r46 23 58 29.3704
r47 19 57 10.3074
r48 19 57 29.3704
r49 18 46 15.4223
r50 18 56 11.4207
r51 12 56 3.26338
r52 12 56 29.3704
r53 8 43 10.3074
r54 8 55 29.3704
r55 7 42 15.4223
r56 7 35 19.5802
r57 2 54 3.26338
r58 2 54 29.3704
r59 1 59 1.25495
r60 1 57 5.54899
.ends

.subckt PM_BUFD2%IN 15 22 23 25 32 37 44 45 47 54 57 64 65 67 74 86 87 88 89 90
+ 91 92
r46 100 102 0.17712
r47 98 100 0.17712
r48 92 98 0.008856
r49 92 94 0.168264
r50 73 74 0.62445
r51 73 91 0.62445
r52 67 74 0.624484
r53 66 79 0.231882
r54 65 67 0.252919
r55 65 66 0.53136
r56 63 64 0.62445
r57 63 90 0.62445
r58 57 79 0.0151417
r59 57 64 0.624484
r60 56 78 0.231882
r61 55 79 0.231882
r62 55 56 0.53136
r63 53 54 0.62445
r64 53 89 0.62445
r65 47 78 0.0151417
r66 47 54 0.624484
r67 46 77 0.231882
r68 45 78 0.231882
r69 45 46 0.53136
r70 43 44 0.62445
r71 43 88 0.62445
r72 37 77 0.0151417
r73 37 44 0.624484
r74 35 36 1.06272
r75 34 76 0.231882
r76 34 35 1.06272
r77 33 77 0.231882
r78 33 36 1.06272
r79 31 32 0.62445
r80 31 87 0.62445
r81 25 76 0.0151417
r82 25 32 0.624484
r83 24 75 0.231882
r84 23 76 0.231882
r85 23 24 0.53136
r86 21 22 0.62445
r87 21 86 0.62445
r88 15 75 0.0151417
r89 15 22 0.624484
r90 13 75 0.231882
r91 13 14 1.19556
r92 11 12 0.368994
r93 10 102 1
r94 10 11 0.368994
r95 8 100 1
r96 8 10 0.17712
r97 6 98 1
r98 6 8 0.17712
r99 3 94 1
r100 3 6 0.17712
r101 1 14 0.311719
r102 1 12 0.369012
.ends

