************************************************************************
* auCdl Netlist:
* 
* Library Name:  OTFT_stdlib_cells
* Top Cell Name: BUFD8
* View Name:     schematic
* Netlisted on:  Dec 27 12:58:41 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: OTFT_stdlib_cells
* Cell Name:    BUFD8
* View Name:    schematic
************************************************************************

.SUBCKT BUFD8 IN OUT VDD VSS
*.PININFO IN:I VDD:I VSS:I OUT:O
MI11 VSS VSS net2 ptft W=800u L=40u
MI10 VSS net2 OUT ptft W=3.2m L=10u
MI6 net1 IN VDD ptft W=3.2m L=10u
MI7 VSS net3 net1 ptft W=3.2m L=10u
MI5 VSS VSS net3 ptft W=800u L=40u
MI4 net3 IN VDD ptft W=1.6m L=10u
MI9 net2 net1 VDD ptft W=1.6m L=10u
MI8 OUT net1 VDD ptft W=3.2m L=10u
.ENDS

