************************************************************************
* auCdl Netlist:
* 
* Library Name:  OTFT_stdlib_cells
* Top Cell Name: DFFD1
* View Name:     schematic
* Netlisted on:  Dec 24 16:33:52 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: OTFT_stdlib_cells
* Cell Name:    DFFD1
* View Name:    schematic
************************************************************************

.SUBCKT DFFD1 CK D Q QN VDD VSS
*.PININFO CK:I D:I VDD:I VSS:I Q:O QN:O
MI73 VSS VSS net153 ptft W=40u L=18u
MI72 VSS net153 QN ptft W=480u L=18u
MI71 net153 F2N VDD ptft W=120u L=18u
MI70 net153 Q VDD ptft W=120u L=18u
MI69 QN Q VDD ptft W=240u L=18u
MI68 QN F2N VDD ptft W=240u L=18u
MI67 Q F2 VDD ptft W=240u L=18u
MI66 Q QN VDD ptft W=240u L=18u
MI65 net155 QN VDD ptft W=120u L=18u
MI64 net155 F2 VDD ptft W=120u L=18u
MI63 VSS net155 Q ptft W=480u L=18u
MI62 VSS VSS net155 ptft W=40u L=18u
MI61 F2N F1ON VDD ptft W=240u L=18u
MI60 F2N ~~CK VDD ptft W=240u L=18u
MI59 net154 ~~CK VDD ptft W=120u L=18u
MI58 net154 F1ON VDD ptft W=120u L=18u
MI57 VSS net154 F2N ptft W=480u L=18u
MI56 VSS VSS net154 ptft W=40u L=18u
MI55 F2 F1O VDD ptft W=240u L=18u
MI54 F2 ~~CK VDD ptft W=240u L=18u
MI53 net158 ~~CK VDD ptft W=120u L=18u
MI52 net158 F1O VDD ptft W=120u L=18u
MI51 VSS net158 F2 ptft W=480u L=18u
MI50 VSS VSS net158 ptft W=40u L=18u
MI45 ~~CK ~CK VDD ptft W=320u L=18u
MI44 net156 ~CK VDD ptft W=160u L=18u
MI43 VSS net156 ~~CK ptft W=320u L=18u
MI42 VSS VSS net156 ptft W=40u L=18u
MI41 VSS VSS net160 ptft W=40u L=18u
MI40 VSS net160 F1ON ptft W=480u L=18u
MI39 net160 F1N VDD ptft W=120u L=18u
MI38 net160 F1O VDD ptft W=120u L=18u
MI37 F1ON F1O VDD ptft W=240u L=18u
MI36 F1ON F1N VDD ptft W=240u L=18u
MI35 F1O F1 VDD ptft W=240u L=18u
MI34 F1O F1ON VDD ptft W=240u L=18u
MI33 net159 F1ON VDD ptft W=120u L=18u
MI32 net159 F1 VDD ptft W=120u L=18u
MI31 VSS net159 F1O ptft W=480u L=18u
MI30 VSS VSS net159 ptft W=40u L=18u
MI29 F1N ~D VDD ptft W=240u L=18u
MI28 F1N ~CK VDD ptft W=240u L=18u
MI27 net168 ~CK VDD ptft W=120u L=18u
MI26 net168 ~D VDD ptft W=120u L=18u
MI25 VSS net168 F1N ptft W=480u L=18u
MI24 VSS VSS net168 ptft W=40u L=18u
MI23 ~CK CK VDD ptft W=320u L=18u
MI22 net167 CK VDD ptft W=160u L=18u
MI21 VSS net167 ~CK ptft W=320u L=18u
MI20 VSS VSS net167 ptft W=40u L=18u
MI9 F1 D VDD ptft W=240u L=18u
MI8 F1 ~CK VDD ptft W=240u L=18u
MI3 net170 ~CK VDD ptft W=120u L=18u
MI1 net170 D VDD ptft W=120u L=18u
MI0 VSS net170 F1 ptft W=480u L=18u
MI2 VSS VSS net170 ptft W=40u L=18u
MI6 ~D D VDD ptft W=320u L=18u
MI4 net169 D VDD ptft W=160u L=18u
MI7 VSS net169 ~D ptft W=320u L=18u
MI5 VSS VSS net169 ptft W=40u L=18u
.ENDS

