************************************************************************
* auCdl Netlist:
* 
* Library Name:  OTFT_stdlib_cells
* Top Cell Name: INVD8
* View Name:     schematic
* Netlisted on:  Dec 22 20:40:16 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: OTFT_stdlib_cells
* Cell Name:    INVD8
* View Name:    schematic
************************************************************************

.SUBCKT INVD8 IN OUT VDD VSS
*.PININFO IN:I VDD:I VSS:I OUT:O
MI6 OUT IN VDD ptft W=3.2m L=10u
MI4 net10 IN VDD ptft W=1.6m L=10u
MI7 VSS net10 OUT ptft W=3.2m L=10u
MI5 VSS VSS net10 ptft W=800u L=40u
.ENDS

