* File: INVD1.pex.netlist
* Created: Sat Dec 13 10:46:18 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* 
.include "INVD1.pex.netlist.pex"
.subckt INVD1  VSS VDD OUT IN
* 
* IN	IN
* OUT	OUT
* VDD	VDD
* VSS	VSS
XMI5 N_VSS_MI5_d N_VSS_MI5_g N_net10_MI5_s ptft L=4e-05 W=0.0001
XMI4 N_net10_MI4_d N_IN_MI4_g N_VDD_MI4_s ptft L=1e-05 W=0.0002
XMI7 N_VSS_MI7_d N_net10_MI7_g N_OUT_MI7_s ptft L=1e-05 W=0.0002
XMI6 N_OUT_MI6_d N_IN_MI6_g N_VDD_MI6_s ptft L=1e-05 W=0.0002
XMI7@2 N_VSS_MI7_d N_net10_MI7@2_g N_OUT_MI7@2_s ptft L=1e-05 W=0.0002
XMI6@2 N_OUT_MI6_d N_IN_MI6@2_g N_VDD_MI6_s ptft L=1e-05 W=0.0002
*
.include "INVD1.pex.netlist.INVD1.pxi"
*
.ends
*
*
